US09403845B2
To a solution of KHMDS (0.5 M in toluene, 27 ml, 14 mmol) at −78° C. was slowly added a solution of ethyl 3-acetamido-6-bromo-pyridine-2-carboxylate (1.3 g, 4.5 mmol) in THF (20 ml). Stirring was continued for 1 h at this temperature then the cooling bath was removed. Ethyl acetate followed by water was added at ambient temperature, then the phases were separated. The yellow aqueous phase was treated with HCl (1 M) until a colorless solid was formed. Filtration and washing of the solid with water followed by drying afforded 6-bromo-4-hydroxy-1H-1,5-naphthyridin-2-one as a colorless solid. The compound is exclusively present in the tautomer shown.

reactant | KHMDS | 14 mmol, 0.5 M, 27 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | ethyl 3-acetamido-6-bromo-pyridine-2-carboxylate | 4.5 mmol, 1.3 g | C(C)(=O)NC=1C(=NC(=CC1)Br)C(=O)OCC | C10H11BrN2O3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 6-bromo-4-hydroxy-1H-1,5-naphthyridin-2-one | BrC=1N=C2C(=CC(NC2=CC1)=O)O | C8H5BrN2O2
